US05736548
A mixture of 3-(2-bromoethoxy)benzaldehyde (3.91 g, 17.07 mmol), K2 CO3 (3.1 g), thiomorpholine (1.9 ml) and DMF (30 ml) was warmed on a steambath overnight. Additional K2CO3 (0.7 g) and thiomorpholine (1.0 ml) were added and the reaction mixture was warmed on a steam bath overnight. The reaction mixture was cooled to room temperature, filtered and the filtrate was stripped to afford an amber oil. The oil was combined with the product from a similar experimental run and purified by column chromatography on silica gel eluting with EtOAc (100%) to afford, as an oil, 3-[2-(4-thiomorpholinyl)ethoxy]benzaldehyde.

reactant | 3-(2-bromoethoxy)benzaldehyde | 17.07 mmol, 3.91 g | BrCCOC=1C=C(C=O)C=CC1 | C9H9BrO2
reactant | thiomorpholine | 1.9 ml | N1CCSCC1 | C4H9NS
reactant | K2CO3 | 0.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | thiomorpholine | 1.0 ml | N1CCSCC1 | C4H9NS
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-[2-(4-thiomorpholinyl)ethoxy]benzaldehyde | N1(CCSCC1)CCOC=1C=C(C=O)C=CC1 | C13H17NO2S
